US05610158
3-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-4-hydroxy-4H-imidazo(5,1-c)(1,4)benzoxazine
3-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-4-(benzoyloxy)-4H-imidazo(5,1-c)(1,4)benzoxazine, Example compound 3 (0.88 g), was placed in methanol (44 mL). To that solution was added sodium methoxide (0.24 g) and stirring continued for 3.75 hours. The reaction was evaporated to dryness and triturated with water. Recrystallization from methanol afforded 0.53 g (81%) of the title compound. Mp 230°-4° C.

reactant | 3-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-4-(benzoyloxy)-4H-imidazo(5,1-c)(1,4)benzoxazine | C1(CC1)C1=NC(=NO1)C=1N=CN2C1C(OC1=C2C=CC=C1)OC(C1=CC=CC=C1)=O | C22H16N4O4
reactant | sodium methoxide | 0.24 g | C[O-].[Na+]
solvent | methanol | 44 mL | CO | CH4O
product | 3-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-4-hydroxy-4H-imidazo(5,1-c)(1,4)benzoxazine | 0.53 g, 81% | C1(CC1)C1=NC(=NO1)C=1N=CN2C1C(OC1=C2C=CC=C1)O | C15H12N4O3
